US04963553
4-[[4-(4-Fluorophenyl)-1-piperazinyl]acetyl]4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, monohydrochloride
A 6.6 g portion of 4-[[4-(4-fluorophenyl)-1-piperazinyl]acetyl]-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile was heated to solution in 100 ml of ethyl acetate, then cooled and acidified with 25 ml of 2.44N ethanolic hydrochloric acid. Ether was added, the solid collected, heated to boiling in 500 ml of ethanol, then cooled and the crystalline salt collected, giving 5.7 g of the desired product, mp 242°-244° C.

reactant | 4-[[4-(4-fluorophenyl)-1-piperazinyl]acetyl]-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | FC1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C26H22F4N6O
reactant | hydrochloric acid | 2.44N, 25 ml | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[[4-(4-Fluorophenyl)-1-piperazinyl]acetyl]4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, monohydrochloride | 5.7 g | Cl.FC1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | InChI=1S/C26H22F4N6O.ClH/c27-21-4-6-22(7-5-21)34-12-10-33(11-13-34)17-24(37)35-9-8-23(36-25(35)19(15-31)16-32-36)18-2-1-3-20(14-18)26(28,29)30;/h1-8,14,16H,9-13,17H2;1H
